US05672769
12-Methoxy-1-dodecanoyl Chloride
Oxalyl chloride (16.0 g, 70 mmol) was added dropwise to a solution of 12-methoxydodecanoic acid (9.8 g, 77 mmol) in 300 mL of anhydrous toluene. After stirring at room temperature for 16 hours the solvent was removed on a rotary evaporator. The residue was taken up in anhydrous toluene and concentrated to give the title compound (17.4 g) as a yellow liquid. The structure was verified by infrared spectroscopy (1796 cm-1) and NMR.

reactant | Oxalyl chloride | 70 mmol, 16.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 12-methoxydodecanoic acid | 77 mmol, 9.8 g | COCCCCCCCCCCCC(=O)O | C13H26O3
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 12-Methoxy-1-dodecanoyl Chloride | 17.4 g | COCCCCCCCCCCCC(=O)Cl | C13H25ClO2
